US08067445B2
Step 4: (5-Bromo-2-fluoro-phenyl)-acetic acid
(5-Bromo-2-fluoro-phenyl)-acetonitrile (0.5 g, 2.3 mmol) was treated with acetic acid (2 mL) and sulfuric acid (2 mL) in H2O (2 mL) at 95° C. for 5 hours. Aqueous worked-up afforded the title compound.

reactant | (5-Bromo-2-fluoro-phenyl)-acetonitrile | 2.3 mmol, 0.5 g | BrC=1C=CC(=C(C1)CC#N)F | C8H5BrFN
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | H2O | 2 mL | O | H2O
product | (5-Bromo-2-fluoro-phenyl)-acetic acid | BrC=1C=CC(=C(C1)CC(=O)O)F | C8H6BrFO2
